US06586630B1
(2) Synthesis of 5-Carboethoxy-3-methyl-1-(2,4,6-trimethylbenzenesulfonyl)indole
To a solution of 5-carboethoxy-3-methylindole (601 mg, 2.96 mmol) in DMF, sodium hydride (178 mg, 4.45 mmol) and 2,4,6-trimethylbenzenesulfonyl chloride (971 mg, 4.44 mmol) were added under cooling with ice, followed by stirring for 30 min. The reaction mixture was mixed with a saturated aqueous NH4Cl solution, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine. The organic layer was dried over magnesium sulfate and evaporated under reduced pressure to remove the solvent; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:5) to give the titled compound (1.02 g, 90%). NMR (method a, CDCl3): δ 1.40 (3H, t, J=7.0 Hz), 2.29 (3H, s), 2.32 (3H, s), 2.52 (6H, s), 4.38 (2H, q, J=6.9 Hz), 6.95 (2H, s), 7.35 (1H, s), 7.41 (1H, d, J=8.9 Hz), 7.90 (1H, dd, J=1.4, 8.9 Hz), 8.24 (1H, s).

reactant | 5-carboethoxy-3-methylindole | 2.96 mmol, 601 mg | C(=O)(OCC)C=1C=C2C(=CNC2=CC1)C | C12H13NO2
reactant | sodium hydride | 4.45 mmol, 178 mg | [H-].[Na+]
reactant | 2,4,6-trimethylbenzenesulfonyl chloride | 4.44 mmol, 971 mg | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Carboethoxy-3-methyl-1-(2,4,6-trimethylbenzenesulfonyl)indole | 1.02 g, 90% | C(=O)(OCC)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1C)C)C)C | C21H23NO4S
